US09193741B2
Synthesis of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(4-[2-(4-chlorophenoxy)acetyl]homopiperazin-1-yl)-thiazolo[5,4-d]pyrimidine
To a solution of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-methanesulfonyl-thiazolo[5,4-d]pyrimidine (50 mg, 0.14 mmol) in dichloromethane (4 ml) was added homopiperazine (1.4 mmol). The reaction mixture was stirred at room temperature for 2 hours. The mixture was extracted, the organic phase was dried over MgSO4 after which the solvent was removed in vacuo. The residue was dissolved in dichloromethane whereupon diisopropylethylamine (0.28 mmol, 47 μL) followed by 4-chlorophenoxyacetyl chloride (0.14 mmol) were added. The reaction was stirred at room temperature for 24 hours after which the solvent was removed in vacuo. The resulting residue was purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio gradually ranging from 100% CH2Cl2 to 1% CH3OH in CH2Cl2), yielding the pure title compound (38 mg) which was characterized by its mass spectrum: MS m/z (%): 541 ([M+H]+, 100).

reactant | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-methanesulfonyl-thiazolo[5,4-d]pyrimidine | 0.14 mmol, 50 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)S(=O)(=O)C | C14H13FN4O2S2
reactant | homopiperazine | 1.4 mmol | N1CCNCCC1 | C5H12N2
reactant | diisopropylethylamine | 0.28 mmol, 47 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-chlorophenoxyacetyl chloride | 0.14 mmol | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(4-[2-(4-chlorophenoxy)acetyl]homopiperazin-1-yl)-thiazolo[5,4-d]pyrimidine | 38 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)N2CCN(CCC2)C(COC2=CC=C(C=C2)Cl)=O | C26H26ClFN6O2S
